US07572790B2
4-Bromo-3-hydroxybenzoic acid (100 mg) was dissolved in absolute ethanol (10 ml) and concentrated sulfuric acid (60 μl) added. The reaction was heated at reflux under nitrogen for 22 hours. The solvent was evaporated and the residue was partitioned between ethyl acetate/chloroform (1:1) and water. The organic layers were combined, dried using a hydrophobic filter and the solvent evaporated leaving ethyl 4-bromo-3-hydroxybenzoate as a white solid (109 mg).

reactant | 4-Bromo-3-hydroxybenzoic acid | 100 mg | BrC1=C(C=C(C(=O)O)C=C1)O | C7H5BrO3
reactant | sulfuric acid | 60 μl | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 4-bromo-3-hydroxybenzoate | 109 mg | BrC1=C(C=C(C(=O)OCC)C=C1)O | C9H9BrO3
